US04427589
9-Chloro-1-methoxy-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine
A solution of 1.0 g (2.8 mmol) of 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine and 1.0 mL of a 4.2 M methanol solution of sodium methoxide in 20 mL of a 1:1 mixture of methanol and tetrahydrofuran was stirred at room temperature for 1 hr. The solvent was removed at reduced pressure and the residue was triturated with water to give an off-white solid. Recrystallization from a mixture of ether and petroleum ether gave colorless prisms, mp 185°-187°.

reactant | 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | 2.8 mmol, 1.0 g | ClC1=NC(=NC=2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=CC=CC=C3)C | C19H13Cl2N3
reactant | methanol | 4.2 M | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-Chloro-1-methoxy-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=C(N=C3OC)C)C=C1 | C20H16ClN3O
